Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is ___ yo gentleman with HTN, HLD, and active tobacco 
use who presented to his PCP's office today with worsening chest 
pain on exertion. For several years, he has had intermittent 
chest pain for which he has been evaluated with two non-imaging 
stress tests. He states that his previous chest pain was 
non-exertional. For the last three months, he has had worsening 
chest pain on exertion (___). He states that his most 
frequently occurs when walking rapidly or lifting heavy objects. 
It is just left of the sternum an occasionally radiates down the 
left arm. He describes it as stabbing, but sys sometimes it 
feels as if someone were sitting on his chest. During more 
intense episodes, he also has shortness of breath and 
diaphoresis.  
.  
Two months ago, he reports that he presented to a hospital in 
___ (while travelling on business) after an episode of 
similar chest pain at rest which was followed by weakness and a 
dizzy spell. He reports that he was told that this was 'angina' 
and was not started on any new medications. Since that time, he 
has had several episodes at rest of mild intensity lasting 
seconds.  
.  
He was referred to the ED by his PCP ___ (given ASA in office; 
also takes it at home). In the ED, CT of the head was done as he 
was complaining of a headache which has now largely resolved and 
has hx of prior CVA in ___. EKG showed baseline RBBB with new 
TWI in III. First set of cardiac enzymes negative.  
.  
Review of prior discharge summaries reveals that his exertional 
symptoms have been present since at least ___.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
He denies exertional buttock or calf pain. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  
.  
 
Past Medical History:
1. Hyperlipidemia.  
2. Gastritis/gerd.  
3. Prostadynia.  
4. CVA in ___.  
5. Left shoulder arthritis.  
6. Hypothyroidism.  
7. Entamoeba histolytica infection 
 
Social History:
___
Family History:
Pt says that parents lived in a region of ___ with minimal 
medical care. Mother died at an early age, cause unknown. Father 
died in his ___, cause unknown. Siblings healthy. Denies any 
knowledge of early CAD in family. 
 
Physical Exam:
PHYSICAL EXAMINATION:  
VS: 97.8, 128/77, 61, 18, 97% ra  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with no JVP  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
 
Pertinent Results:
___ 06:50AM BLOOD WBC-6.3 RBC-4.34* Hgb-13.1* Hct-39.3* 
MCV-91 MCH-30.1 MCHC-33.2 RDW-14.5 Plt ___
___ 04:14PM BLOOD ___ PTT-26.8 ___
___ 06:50AM BLOOD Glucose-86 UreaN-15 Creat-1.0 Na-138 
K-4.2 Cl-106 HCO3-24 AnGap-12
___ 06:50AM BLOOD CK(CPK)-290*
___ 01:55AM BLOOD CK(CPK)-305*
___ 04:00PM BLOOD ALT-20 AST-31 CK(CPK)-341* AlkPhos-120* 
TotBili-0.3
___ 06:50AM BLOOD CK-MB-2 cTropnT-<0.01
___ 01:55AM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:00PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD CK-MB-3
___ 05:33PM BLOOD D-Dimer-273
.
.
.
CT HEAD
Final Report 
HISTORY: ___ male with headache, rule out mass. 
  
COMPARISON: ___. 
  
TECHNIQUE: Contiguous axial images of the head were obtained 
without IV 
contrast. 
  
FINDINGS: There is no intracranial hemorrhage, edema, mass 
effect, shift of 
normally midline structures, or acute major vascular territorial 
infarction.  
The ventricles and sulci are mildly prominent, with prominence 
of the 
bifrontal extra-axial CSF spaces, likely reflecting atrophy. 
Visualized 
paranasal sinuses reveal patchy opacification of the anterior 
ethmoid air 
cells bilaterally, and near complete opacification of the 
frontal sinuses. 
  
IMPRESSION: 
1. No acute intracranial process. 
2. Sinus opacification as detailed. 
.
.
.
RUQ U/S
Final Report 
HISTORY: ___ male with history epigastric right upper 
quadrant pain, 
rule out cholecystitis. 
  
COMPARISON: No prior studies available for comparison. 
  
FINDINGS: The liver is mildly echogenic, suggestive of fatty 
infiltration.  
Within the right lobe of the liver, there is a 1.2 cm x 1.3 cm x 
1.3 cm 
rounded hypoechoic lesion without demonstrable color flow, which 
is 
incompletely characterized. The liver is otherwise unremarkable. 
The portal 
vein is patent with hepatopetal flow. The gallbladder is normal 
without 
gallstones. No pericholecystic fluid or sonographic ___ 
sign was 
evident. There is no intra or extrahepatic biliary ductal 
dilatation with the 
CBD measuring 2 mm. No perihepatic ascites is seen. 
  
IMPRESSION: 
1. No evidence of cholelithiasis or cholecystitis. 
  
2. Mildly echogenic liver, suggestive of fatty infiltration. 
  
3. 1.3 cm rounded hypoechoic lesion, within the right lobe of 
the liver, 
incompletely characterized. This can be further evaluated with 
MR, on a 
non-emergent basis. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
.
.
.
Final Report 
CHEST RADIOGRAPH PERFORMED ON ___ 
  
Comparison is made with a prior study from ___. 
  
CLINICAL HISTORY: History of chest pain. Question pneumonia. 
  
FINDINGS: PA and lateral views of the chest are obtained. Low 
lung volumes 
somewhat limits evaluation. There is crowding of 
bronchovasculature at the 
lung bases which somewhat limits evaluation for subtle 
pneumonia. There is, 
however, no definite evidence of pneumonia or CHF. No pleural 
effusion or 
pneumothorax is seen. Cardiomediastinal silhouette is normal. 
Bony 
structures are intact. 
  
IMPRESSION: No acute findings. Limited study. 
  
___. ___ 
___: SAT ___ 6:27 ___ 

 
Brief Hospital Course:
___ with HTN and HLD presents with symptoms of stable angina.  
.  
# Chest Pain: At first, there was concerned for unstable angina 
as it seemed that these symptoms were entirely new over the past 
___ months with rapid progression, but review of d/c summaries 
shows that the pt presented with the same hx in ___, ___ 
years ago. His last non-imaging stress test did show some 
non-specific EKG changes not present previously. His last stress 
with imaging was a stress echo in ___ showing no wall mtn abnl. 
It is likely that the pt has coronary disease which is stable. 
Given the reproducibility of his CP with exertion and his risk 
factors, he should have another stress echo vs stress MIBI. His 
rest chest pain is atypical and fleeting, low suspicion for ACS. 
He ruled out with 3 sets of cardiac enzymes. We decided to 
conservatively treat the pt's angina medically in order to avoid 
cath for the time being (there is no mortality benefit for 
medical treatment vs cath in this situation). We started him on 
metoprolol 12.5 bid and also provided him with sublingual nitro 
prn. After starting metoprolol the pt was walked around the 
floor and had improved relief of anginal sx. We also sent him 
home on ASA 325 and pravastatin 40bid. We have planned to have 
him f/u with his cardiologist to in a few days to determine if 
his anginal symptoms are reduced, if they persist, cath may be 
necessary. 
.  
# Continued tobacco use: discussed with pt at length. pt agrees 
to try nicotine patch.  
.  
# Hypothyroid: no active issues. continue synthroid 
. 
# Hx CVA: head CT in ED neg. cont ASA  
.  
 
Medications on Admission:
CARDURA 4MG DAILY  
FLUTICASONE NASAL  
LEVOTHYROXINE 100MCG DAILY  
OMEPRAZOLE 40MG DAILY  
SIMVASTATIN 10MG QHS  
ASPIRIN 325MG  
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Doxazosin 4 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
7. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*14 Patch 24 hr(s)* Refills:*1*
8. Pravastatin 20 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).
Disp:*120 Tablet(s)* Refills:*1*
9. Nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1)  
Sublingual every six (6) hours as needed for chest pain: take as 
needed for chest pain.
Disp:*30 * Refills:*0*
10. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day): please take one when you wake up in the AM and one 
in the afternoon.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
stable angina
CAD

 
Discharge Condition:
afebrile, stable vitals, no chest pain, ambulating, tolerating 
POs

 
Discharge Instructions:
You were admitted for chest pain that is concerning for angina 
and coronary artery disease. You were not found to have any 
acute coronary disease based on your EKG and blood work. You 
were started on a new medication that will help your chest pain 
called metoprolol 12.5mg once when you wake up in the morning 
and once in the afternoon. You should also take sublingual 
nitroglycerin tablets only as needed when you have chest pain. 
You will also stop taking simvastatin 10mg daily and start a 
medicine called pravastatin 40mg twice a day. You should also 
continue to use a nicotine patch for smoking cessation which you 
were counseled on extensively.
.
Please take all medications as prescribed.
Please followup with all appointments.
Please do not hesitate to return to the hospital for any 
concerning symptoms.
 
Followup Instructions:
___